US07816540B2
d) 4-Bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid methyl ester
To the solution of 5.5 g (35.0 mmol) 3-fluoro-4-nitrophenol in 55 mL N,N-dimethylformamide, 11.8 g (45.5 mmol) methyl 2,4-dibromobutyrate and 6.3 g (45.5 mmol) potassium carbonate were added. After stirring for 3 h the reaction mixture was poured on ethyl acetate and 1 M aqueous hydrochloric acid and extracted. The organic phases were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography on silica gel using an MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane:ethyl acetate (1:0 to 1:1 v/v) to afford the title compound as a light yellow oil (64%) which was pure enough to be used in the next step.

reactant | 3-fluoro-4-nitrophenol | 35.0 mmol, 5.5 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | methyl 2,4-dibromobutyrate | 45.5 mmol, 11.8 g | BrC(C(=O)OC)CCBr | C5H8Br2O2
reactant | potassium carbonate | 45.5 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-2-(3-fluoro-4-nitro-phenoxy)-butyric acid methyl ester | 64% | COC(C(CCBr)OC1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C11H11BrFNO5
